US07326791B2
b) 2-(5-chloro-1H-indol-2-yl)-N-[3-methyl-4-(pyrrolidin-1-ylcarbonyl)phenyl]pent-4-enoic acid amide
Prepared by saponification of ethyl rac.-2-(1-tert-butoxycarbonyl-1H-5-chloroindol-2-yl)pent-4-enoate to rac.-2-(5-chloro-1H-indol-2-yl)pent-4-enoic acid analogously to Example 1f and subsequent amide coupling analogously to Example 1g with 3-methyl-4-(pyrrolidin-1-ylcarbonyl)aniline, TBTU, diisopropylethylamine in tetrahydrofuran. C25H26ClN3O2 (435.96); mass spectrum: (M+H)+=435.

reactant | rac.-2-(5-chloro-1H-indol-2-yl)pent-4-enoic acid | ClC=1C=C2C=C(NC2=CC1)C(C(=O)O)CC=C | C13H12ClNO2
reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)aniline | CC=1C=C(N)C=CC1C(=O)N1CCCC1 | C12H16N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(5-chloro-1H-indol-2-yl)-N-[3-methyl-4-(pyrrolidin-1-ylcarbonyl)phenyl]pent-4-enoic acid amide | ClC=1C=C2C=C(NC2=CC1)C(C(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)CC=C | C25H26ClN3O2
